US05880147
N-[2-t-Butyl-5-(hydroxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide
0.1 ml of concentrated aqueous hydrochloric acid was added, with stirring and ice-cooling, to a solution of 460 mg (0.828 mmol) of N-[2-t-butyl-5-(t-butyldimethylsilyloxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 8) in a mixture of 9 ml of methanol and 1 ml of methylene chloride, and the resulting mixture was allowed to stand at the same temperature for 40 minutes, after which it was diluted with diethyl ether. The diluted solution was washed twice with water and once with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was recrystallized from a mixture of hexane and ethyl acetate to give 353 mg (yield 96%) of the title compound as crystals, melting at 125°-126° C.

reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | N-[2-t-butyl-5-(t-butyldimethylsilyloxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide | 0.828 mmol, 460 mg | C(C)(C)(C)C1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C33H53NO4Si
solvent | methanol | 9 ml | CO | CH4O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[2-t-Butyl-5-(hydroxymethyl)phenyl]-3-(2,4-dimethoxyphenyl)octanamide | 353 mg, yield 96% | C(C)(C)(C)C1=C(C=C(C=C1)CO)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H39NO4
